US08058269B2
Preparation of rac-4-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-cyclobutylcarbamoylmethyl-amino}-piperidine-1-carboxylic acid dimethylamide
At room temperature, rac-2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidin-4-yl-amino}-N-cyclobutyl-acetamide (77 mg, 0.154 mmol) and dimethylcarbamyl chloride (14 mg, 0.185 mmol) and K2CO3 were mixed in about 2 ml CH2Cl2. After stirred for about 1 h, the solution was concentrated and the crude product was purified by chromatography to obtain 20 mg solid rac-4-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-cyclobutylcarbamoylmethyl-amino}-piperidine-1-carboxylic acid dimethylamide.

reactant | rac-2-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-piperidin-4-yl-amino}-N-cyclobutyl-acetamide | 0.154 mmol, 77 mg | ClC1=CC=C2C(C(NC2=C1)=O)(CC1=CC(=CC=C1)Cl)N(CC(=O)NC1CCC1)C1CCNCC1 | C26H30Cl2N4O2
reactant | dimethylcarbamyl chloride | 0.185 mmol, 14 mg | CN(C(=O)Cl)C | C3H6ClNO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | about 2 ml | C(Cl)Cl | CH2Cl2
product | rac-4-{[6-Chloro-3-(3-chloro-benzyl)-2-oxo-2,3-dihydro-1H-indol-3-yl]-cyclobutylcarbamoylmethyl-amino}-piperidine-1-carboxylic acid dimethylamide | 20 mg | CN(C(=O)N1CCC(CC1)N(CC(NC1CCC1)=O)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl)C | C29H35Cl2N5O3
